US07846950B2
(2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure A from 2-fluoro-4-hydroxybenzoic acid [CAS 65145-13-3] and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine. MS (ES+) m/e 293.1

reactant | 2-fluoro-4-hydroxybenzoic acid | FC1=C(C(=O)O)C=CC(=C1)O | C7H5FO3
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
product | (2-Fluoro-4-hydroxy-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)O)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21FN2O2
